US05883093
Step 3: N-(carbobenzyloxy)-3-fluoro-4-(3-methoxy-1-azetidinyl)aniline
A solution of 3-fluoro-4-(3-methoxy-1-azetidinyl)nitrobenzene (1.50 g, 6.64 mmol) in 1:1 methanol/tetrahydrofuran (35 mL) was treated with 10% palladium on carbon and then ammonium formate (1.26 g, 19.9 mmol) at room temperature. After 20 min the color of the reaction mixture changed from yellow to colorless. The reaction mixture was filtered through Celite® and the filtrate concentrated under reduced pressure. The recovered oil was immediately dissolved in 3:1 acetone/water (25 mL) and treated with potassium carbonate (2.75 g, 19,9 mmol) and benzyl chloroformate (1.31 mL, 8.30 mmol). After 30 min TLC analysis (6% acetonitrile/chloroform) revealed the reaction to be complete. The reaction mixture was extracted with chloroform (3×20 mL). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to a purple oil. This material was chromatographed over silica gel (100 g), eluting with a gradient of 1-3% acetonitrile/chloroform, to give, after concentration of appropriate fractions, 1.24 g (56%) of the title compound as an off-white solid with mp 95°-96.5° C. and MS(EI) 330 (M+).

reactant | 3-fluoro-4-(3-methoxy-1-azetidinyl)nitrobenzene | 6.64 mmol, 1.50 g | FC=1C=C(C=CC1N1CC(C1)OC)[N+](=O)[O-] | C10H11FN2O3
reactant | ammonium formate | 19.9 mmol, 1.26 g | C(=O)[O-].[NH4+]
reactant | potassium carbonate | 19,9 mmol, 2.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 8.30 mmol, 1.31 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
catalyst | palladium on carbon | [Pd] | Pd
solvent | acetonitrile chloroform | C(C)#N.C(Cl)(Cl)Cl
solvent | methanol tetrahydrofuran | 35 mL | CO.O1CCCC1
product | N-(carbobenzyloxy)-3-fluoro-4-(3-methoxy-1-azetidinyl)aniline | 1.24 g, 56% | C(=O)(OCC1=CC=CC=C1)NC1=CC(=C(C=C1)N1CC(C1)OC)F | C18H19FN2O3
